US04833144
3-Phenyl-2-(4-pyridylmethylsulfinyl)-4(3H)-quinazolinone
0.7 g Of m-chloroperbenzoic acid was added under an ice-cold water cooling to 1.12 g of a solution of 3-phenyl-2(4-pyridylmethylthio)-4(3H)-quinazolinone in 50 ml of chloroform and the stirring was continued for 2 hours.

reactant | m-chloroperbenzoic acid | 0.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-phenyl-2(4-pyridylmethylthio)-4(3H)-quinazolinone | C1(=CC=CC=C1)N1C(=NC2=CC=CC=C2C1=O)SCC1=CC=NC=C1 | C20H15N3OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Phenyl-2-(4-pyridylmethylsulfinyl)-4(3H)-quinazolinone | C1(=CC=CC=C1)N1C(=NC2=CC=CC=C2C1=O)S(=O)CC1=CC=NC=C1 | C20H15N3O2S
